US05942516
m) 6-Benzyloxymethyl-5(2-methoxymethoxy-4-methoxyphenyl)-4-propoxy-pyrimidine
To a solution of 2-methoxymethoxy-4-methoxyphenyl boronic acid (2.89 g. 13.65 mmol) in MeOH (8-10 ml) and 6-benzyloxymethyl-5-iodo-4-propoxy-pyrimidine (5 g, 13 mmol) in toluene (75 ml) was added an aqueous solution of 2 M sodium carbonate (14 ml) followed by Tetrakis(triphenylphosphine)palladium (0) (1.25 g, 1.08 mmol). The reaction was allowed to stir at 90-95° for 18 h. The mixture was cooled to room temperature then diluted with ethyl acetate, washed with water, sat'd NH4Cl, 5% NaHCO3 solution, brine and dried (MgSO4). After removing the solvent, flash chromatography of the residue (silica gel, 1:1 t-butyl methyl ether/hexane) provided the title compound as a solid (3.41 g, 62%).

reactant | 2-methoxymethoxy-4-methoxyphenyl boronic acid | 13.65 mmol, 2.89 g | COCOC1=C(C=CC(=C1)OC)B(O)O | C9H13BO5
reactant | 6-benzyloxymethyl-5-iodo-4-propoxy-pyrimidine | 13 mmol, 5 g | C(C1=CC=CC=C1)OCC1=C(C(=NC=N1)OCCC)I | C15H17IN2O2
reactant | sodium carbonate | 2 M, 14 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | MeOH | 8-10 ml | CO | CH4O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium | 1.08 mmol, 1.25 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Benzyloxymethyl-5(2-methoxymethoxy-4-methoxyphenyl)-4-propoxy-pyrimidine | 3.41 g, 62% | C(C1=CC=CC=C1)OCC1=C(C(=NC=N1)OCCC)C1=C(C=C(C=C1)OC)OCOC | C24H28N2O5
